US08877970B2
4-iodo-N-(5-sulfamoyl-2,3-dihydro-1H-inden-1-yl)benzamide (MIP-1146)
To a round bottom flask containing 1-amino-2,3-dihydro-1H-indene-5-sulfonamide hydrochloride salt (93 mg, 0.38 mmol) suspended in dichloromethane (3 mL) was added triethylamine (61 μL) followed by 4-iodobenzoylchloride (100 mg, 0.38 mmol) and the reaction was stirred overnight at room temperature. The reaction was diluted with dischloromethane (25 mL) and washed with 10% aqueous hydrochloric acid (10 mL), water (10 mL), brine (10 mL), dried over sodium sulfate and concentrated to afford the crude material as an off-white solid. Recrystallization from ethanol/water afforded MIP-1146 (19 mg, 21%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.96 (m, 2H), 7.85-7.35 (m, 8H), 5.60 (m, 1H), 3.15-2.75 (m, 2H), 2.15-1.90 (m, 2H); (M+H)+ (443).

reactant | 1-amino-2,3-dihydro-1H-indene-5-sulfonamide hydrochloride salt | 0.38 mmol, 93 mg | Cl.NC1CCC2=CC(=CC=C12)S(=O)(=O)N
reactant | triethylamine | 61 μL | C(C)N(CC)CC | C6H15N
reactant | 4-iodobenzoylchloride | 0.38 mmol, 100 mg | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-iodo-N-(5-sulfamoyl-2,3-dihydro-1H-inden-1-yl)benzamide | IC1=CC=C(C(=O)NC2CCC3=CC(=CC=C23)S(N)(=O)=O)C=C1 | C16H15IN2O3S
